US05559111
5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(3-carbamoyl-propyl)]-amide hydrochloride
84 mg of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(3-carbamoyl-propyl)]-amide are dissolved in 3 ml of 4N hydrochloric acid in dioxane at 0° C. and the mixture is stirred for 2 hours at 0° C. The reaction mixture is lyophilised. The title compound is obtained: Rf (dichloromethane/methanol=9:1)=0.04; HPLC Rt =9.44 minutes; HR FAB-MS (M+H)+ =510.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(3-carbamoyl-propyl)]-amide | 84 mg | C(N)(=O)CCCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C32H55N3O8
reactant | hydrochloric acid | 4N, 3 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5(S)-Amino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid [N-(3-carbamoyl-propyl)]-amide hydrochloride | Cl.C(N)(=O)CCCNC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)N)O)C)=O | InChI=1S/C27H47N3O6.ClH/c1-18(2)21(15-20-9-10-24(35-5)25(16-20)36-13-7-12-34-4)17-22(28)23(31)14-19(3)27(33)30-11-6-8-26(29)32;/h9-10,16,18-19,21-23,31H,6-8,11-15,17,28H2,1-5H3,(H2,29,32)(H,30,33);1H/t19-,21+,22+,23+;/m1./s1
